US08003647B2
4-(3-Cyano-6-methanesulfonylaminoindol-1-yl)benzoic acid ethyl ester
To a solution of 4-(5-amino-3-cyanoindol-1-yl)benzoic acid ethyl ester (0.070 g) in dichloromethane (2 mL) were added methanesulfonyl chloride (0.035 g) and pyridine (0.036 g) at room temperature, and this mixture was stirred at room temperature overnight. This reaction mixture was poured into 1 mol/L hydrochloric acid, this resulting mixture was extracted with ethyl acetate. This organic layer was washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=10/90-75/25) to give the title compound (0.046 g).

reactant | 4-(5-amino-3-cyanoindol-1-yl)benzoic acid ethyl ester | 0.070 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)N)C#N)=O | C18H15N3O2
reactant | methanesulfonyl chloride | 0.035 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.036 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(3-Cyano-6-methanesulfonylaminoindol-1-yl)benzoic acid ethyl ester | 0.046 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC=C(C=C12)NS(=O)(=O)C)C#N)=O | C19H17N3O4S
